### PR TITLE
feat(Algebra/WLocalization): fill sorries for `Generalization` API

### PR DESCRIPTION
**Pull request by chrisflav**
Fill the five `sorry` placeholders in the `WLocalization.Generalization` section of `Proetale/Algebra/WLocalization/Basic.lean`:

* `range_algebraMap_generalization`: identifies the image of `Spec (Generalization f I) → Spec A` with the generalization hull of `D(f) ∩ V(I)`.
* `bijOn_algebraMap_generalization_specComap_zeroLocus_ideal`: the closed subscheme `V(ideal f I) ⊂ Spec (Generalization f I)` maps bijectively onto `D(f) ∩ V(I)`.
* `submonoid_le`: monotonicity of `Generalization.submonoid f I` along inclusions of locally closed subsets `D(f') ∩ V(I') ⊆ D(f) ∩ V(I)`.
* `Generalization.map.commutes'`: the `A`-algebra structure of the transition map between generalizations.
* `exists_specializes_zeroLocus_ideal`: every point of `Spec (Generalization f I)` specializes to a point of `V(ideal f I)`.

The proofs use two private helper lemmas: `submonoid_disjoint_locClosedSubset_primes` (forward direction of the membership criterion) and `mem_submonoid_iff_not_mem_locClosedSubset` (characterising `submonoid f I` via primes in `D(f) ∩ V(I)`).

This corresponds to `lemma:locally-closed-specializations` in `blueprint/src/chapters/local-structure.tex`; the informal proof is now annotated with `\leanok`.

## Test plan
- [x] `lake build Proetale.Algebra.WLocalization.Basic` succeeds with no warnings.
- [x] `bash .agent/validation.sh` passes (full project build with `--wfail`).

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: Proetale/Algebra/WLocalization/Basic.lean [hunk 1]
```diff
@@ -64,35 +64,173 @@ instance indZariski : Algebra.IndZariski A (Generalization f I) := by
...
+      exact hpI
+    have hpb_f : p_bar ∈ basicOpen (Ideal.Quotient.mk I f) :=
+      (PrimeSpectrum.mem_basicOpen _ _).mpr fun h ↦ hpf (Ideal.mem_comap.mpr h)
+    exact (PrimeSpectrum.mem_basicOpen _ _).mp (hle hpb_f) (Ideal.mem_comap.mp hap)
+  · simp only [PrimeSpectrum.mem_basicOpen] at hp_bar ⊢
+    refine h (PrimeSpectrum.comap (Ideal.Quotient.mk I) p_bar) ⟨?_, ?_⟩ hmka
+    · simpa [PrimeSpectrum.mem_basicOpen] using hp_bar
+    · rw [PrimeSpectrum.mem_zeroLocus]
+      intro b hb
+      change Ideal.Quotient.mk I b ∈ p_bar.asIdeal
```
Comment (chrisflav) [inline Proetale/Algebra/WLocalization/Basic.lean]: Avoid `change` by using the right API lemmas instead.

File: Proetale/Algebra/WLocalization/Basic.lean [hunk 2]
```diff
@@ -64,35 +64,173 @@ instance indZariski : Algebra.IndZariski A (Generalization f I) := by
...
-    generalizationHull (locClosedSubset f I) :=
-  sorry
-
-lemma bijOn_algebraMap_generalization_specComap_zeroLocus_ideal (f : A) (I : Ideal A) :
-    Set.BijOn (PrimeSpectrum.comap <| algebraMap A (Generalization f I)) (zeroLocus (ideal f I))
-    (locClosedSubset f I) :=
-  sorry
+/-- Characterization of `submonoid f I`: an element `a : A` lies in `submonoid f I` if and only
+if `a` lies outside every prime in `locClosedSubset f I = D(f) ∩ V(I)`. -/
+private lemma mem_submonoid_iff (f : A) (I : Ideal A) (a : A) :
```
Comment (chrisflav) [inline Proetale/Algebra/WLocalization/Basic.lean]: This is a general purpose lemma and should not be `private`.

File: Proetale/Algebra/WLocalization/Basic.lean [hunk 3]
```diff
@@ -64,35 +64,173 @@ instance indZariski : Algebra.IndZariski A (Generalization f I) := by
...
+    rw [IsLocalization.mk'_mem_map_algebraMap_iff (submonoid f I)]
+    exact ⟨1, (submonoid f I).one_mem, by simpa using ha_q⟩
+  · exact PrimeSpectrum.ext (IsLocalization.under_map_of_isPrime_disjoint (submonoid f I)
+      (Generalization f I) q.isPrime hq_disj)
+
+lemma bijOn_algebraMap_generalization_specComap_zeroLocus_ideal (f : A) (I : Ideal A) :
+    Set.BijOn (PrimeSpectrum.comap <| algebraMap A (Generalization f I)) (zeroLocus (ideal f I))
+      (locClosedSubset f I) := by
+  refine ⟨?mapsTo, ?injOn, ?surjOn⟩
+  case mapsTo =>
```
Comment (chrisflav) [inline Proetale/Algebra/WLocalization/Basic.lean]: Don't use named cases for refine.

File: Proetale/Algebra/WLocalization/Basic.lean [hunk 4]
```diff
@@ -64,35 +64,173 @@ instance indZariski : Algebra.IndZariski A (Generalization f I) := by
...
+      rw [submonoid, Submonoid.mem_comap, IsUnit.mem_submonoid_iff,
+        IsScalarTower.algebraMap_apply A (A ⧸ I)]
+      have hmem : Ideal.Quotient.mk I f ∈ Submonoid.powers (Ideal.Quotient.mk I f) :=
+        ⟨1, pow_one _⟩
+      exact IsLocalization.map_units (Localization.Away (Ideal.Quotient.mk I f)) ⟨_, hmem⟩
+    refine ⟨fun hfq ↦ Set.disjoint_left.mp hdisj hf_sub hfq, ?_⟩
+    rw [PrimeSpectrum.mem_zeroLocus]
+    intro a ha
+    refine hy ?_
+    change toLocQuotient f I (algebraMap A (Generalization f I) a) = 0
```
Comment (chrisflav) [inline Proetale/Algebra/WLocalization/Basic.lean]: Never use `change`, rewrite with the correct lemma instead.

File: Proetale/Algebra/WLocalization/Basic.lean [hunk 5]
```diff
@@ -64,35 +64,173 @@ instance indZariski : Algebra.IndZariski A (Generalization f I) := by
...
+      rw [Submodule.mem_sup] at hfn
+      obtain ⟨a, ha, b, hb, hab⟩ := hfn
+      have ha_sub : a ∈ submonoid f I := by
+        rw [submonoid, Submonoid.mem_comap, IsUnit.mem_submonoid_iff,
+          IsScalarTower.algebraMap_apply A (A ⧸ I)]
+        have h_eq : (algebraMap A (A ⧸ I)) a = (algebraMap A (A ⧸ I)) (f ^ n) := by
+          have hmem : a - f ^ n ∈ I := by
+            have : a - f ^ n = -b := by linear_combination hab
+            rw [this]; exact I.neg_mem hb
+          rwa [← Ideal.Quotient.eq] at hmem
```
Comment (chrisflav) [inline Proetale/Algebra/WLocalization/Basic.lean]: Implement this in forward rewriting style, without introducing auxiliary `have`s.

File: Proetale/Algebra/WLocalization/Basic.lean [hunk 6]
```diff
@@ -64,35 +64,173 @@ instance indZariski : Algebra.IndZariski A (Generalization f I) := by
...
+      have hfq : f ∉ q.asIdeal := hq.1
+      rw [IsScalarTower.algebraMap_apply A (A ⧸ I)] at hz'
+      obtain ⟨⟨_, n, rfl⟩, hc⟩ := (IsLocalization.map_eq_zero_iff
+        (Submonoid.powers (Ideal.Quotient.mk I f))
+        (Localization.Away (Ideal.Quotient.mk I f)) _).mp hz'
+      have hfna : f ^ n * a ∈ I :=
+        Ideal.Quotient.eq_zero_iff_mem.mp (by rw [map_mul, map_pow]; exact hc)
+      exact (q.isPrime.mem_or_mem (hqI hfna)).resolve_left
+        (mt (q.isPrime.mem_of_pow_mem n) hfq)
+    change IsLocalization.mk' (Generalization f I) a s ∈
```
Comment (chrisflav) [inline Proetale/Algebra/WLocalization/Basic.lean]: Never use `change`.
